US09302988B2
Step 2: Ethyl 3-(4-fluorophenyl)-4-methyl-1H-pyrrole-2-carboxylate
Ethyl isocyanoacetate (4.36 mL, 42.09 mmol) and DBU (6.28 mL, 42.09 mmol) was added to a solution of (E)-1-fluoro-4-(2-nitroprop-1-enyl)benzene (6.0 g, 33.14 mmol) in THF (60 mL) at 0° C. The reaction mixture was stirred for 30 min at room temperature; quenched with water (100 mL) and extracted with EtOAc (2×100 mL). The combined organic layers were washed with water (1×100 mL) and brine (75 mL), dried (Na2SO4) and concentrated under reduced pressure to give the crude product, which was purified by column chromatography (silica gel; 60-120 mesh). The pure product was eluted with 10% EtOAc in petroleum ether to yield the desired compound (6.0 g, 73%) as pale yellow solid.

reactant | Ethyl isocyanoacetate | 42.09 mmol, 4.36 mL | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | DBU | 42.09 mmol, 6.28 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | (E)-1-fluoro-4-(2-nitroprop-1-enyl)benzene | 33.14 mmol, 6.0 g | FC1=CC=C(C=C1)\C=C(/C)\[N+](=O)[O-] | C9H8FNO2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | Ethyl 3-(4-fluorophenyl)-4-methyl-1H-pyrrole-2-carboxylate | 6.0 g, 73% | FC1=CC=C(C=C1)C1=C(NC=C1C)C(=O)OCC | C14H14FNO2
